US07868030B2
iv) N-[(5-bromo-1,3-thiazol-2-yl)carbamoyl]-4-(6-methoxypyridin-3-yl)-3-methylbenzenesulfonamide
To a solution of 4-(6-fluoro-pyridin-3-yl)-3-methyl-benzenesulfonamide (4.2 g, 16 mmol) and triethylamine (5.1 ml, 36.8 mmol, 2.3 equiv.) in 130 ml acetonitrile was added dropwise at 0° C. phenyl chloroformate (2.4 ml, 19.2 mmol, 1.2 equiv.) After stirring the solution for one hour at room temp., 5-bromo-thiazol-2-ylamine (4.3 g, 24 mmol, 1.5 equiv.) is added in one portion. The mixture was warmed to 60° C., then methanesulfonic acid (1.5 ml, 24 mmol, 1.5 equiv.) was added and the reaction mixture was stirred for one hour at 60° C. After cooling to room temp., the mixture was diluted with water and extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over magnesium-dihydrate, filtered and evaporated. The crude product was purified on silica-gel with ethyl acetate/n-heptane to give 2.67 g of the title compound as a light brown solid. MS (ES): m/e 470.7 (M−H)

reactant | 4-(6-fluoro-pyridin-3-yl)-3-methyl-benzenesulfonamide | 16 mmol, 4.2 g | FC1=CC=C(C=N1)C1=C(C=C(C=C1)S(=O)(=O)N)C | C12H11FN2O2S
reactant | triethylamine | 36.8 mmol, 5.1 ml, 2.3 equiv. | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 19.2 mmol, 2.4 ml, 1.2 equiv. | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 5-bromo-thiazol-2-ylamine | 24 mmol, 4.3 g, 1.5 equiv. | BrC1=CN=C(S1)N | C3H3BrN2S
reactant | methanesulfonic acid | 24 mmol, 1.5 ml, 1.5 equiv. | CS(=O)(=O)O | CH4O3S
reactant | water | O | H2O
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | N-[(5-bromo-1,3-thiazol-2-yl)carbamoyl]-4-(6-methoxypyridin-3-yl)-3-methylbenzenesulfonamide | 2.67 g | BrC1=CN=C(S1)NC(=O)NS(=O)(=O)C1=CC(=C(C=C1)C=1C=NC(=CC1)OC)C | C17H15BrN4O4S2
